US04476131
A. dl-6-Benzyloxy-5-cyanomethylene-8-(1,1-dimethylheptyl)-1,2,3,3a-tetrahydro-4H-pyrrolo[1,2-a]quinoline
To a solution of 10.9 g. (23.7 mmole) dl-6-benzyloxy-5-cyanomethyl-5-hydroxy-8-(1,2-dimethylheptyl)-2,3,3a,4-tetrahydro-1H-pyrrolo[1,2-a]quinoline in 250 ml. dry tetrahydrofuran is added a few grams of molecular sieves and 2.30 g. (23.9 mmole) methanesulfonic acid. The mixture is stirred for 16 hours at room temperature, made alkaline with sodium hydroxide solution, washed with water, the organic layer dried (MgSO4) and the solvent evaporated in vacuo to afford the crude product which was used in the next step.

reactant | dl-6 benzyloxy-5-cyanomethyl-5-hydroxy-8-(1,2-dimethylheptyl)-2,3,3a,4-tetrahydro-1H-pyrrolo[1,2-a]quinoline | 23.7 mmole | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCNCC2=CC(=C(C=C2)O)OC)O.C(C1=CC=CC=C1)OC1CCC2N1C1=CC(=CC=C1C(C2)(O)CC#N)C(C(CCCCC)C)C
reactant | methanesulfonic acid | 23.9 mmole | CS(=O)(=O)O | CH4O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | dl-6 Benzyloxy-5-cyanomethylene-8-(1,1-dimethylheptyl)-1,2,3,3a-tetrahydro-4H-pyrrolo[1,2-a]quinoline | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCNCC2=CC(=C(C=C2)O)OC)O.C(C1=CC=CC=C1)OC1CCC2N1C1=CC(=CC=C1C(C2)=CC#N)C(CCCCCC)(C)C | InChI=1S/C30H38N2O.C26H42N4O4/c1-4-5-6-10-18-30(2,3)25-13-15-27-24(17-19-31)20-26-14-16-29(32(26)28(27)21-25)33-22-23-11-8-7-9-12-23;1-33-25-17-21(7-9-23(25)31)19-29-15-5-13-27-11-3-4-12-28-14-6-16-30-20-22-8-10-24(32)26(18-22)34-2/h7-9,11-13,15,17,21,26,29H,4-6,10,14,16,18,20,22H2,1-3H3;7-10,17-18,27-32H,3-6,11-16,19-20H2,1-2H3
